US05185471
Aryl ethers have been formed by reacting aryl halides with phenols under various conditions. Roberts and Turner disclose (J. Chem. Soc., 1925, 127, p. 2004) that 2,4-dichloronitrobenzene reacts with phenol in aqueous KOH, at 100° C., to give a quantitative yield of 4-chloro-2-phenoxynitrobenzene.

reactant | 2,4-dichloronitrobenzene | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | KOH | [OH-].[K+]
product | 4-chloro-2-phenoxynitrobenzene | quantitative yield | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C12H8ClNO3
